US07687503B2
10.2. 2-(ethyloxy)-2-oxoethyl 4-{6-[3-(trifluoromethyl)-phenyl]-3-pyridazinyl}-1-piperazinecarboxylate
The process is performed according to the procedure described in Example 1 (step 1.3.). Starting with 1.15 g (3.50 mmol) of 2-(ethyloxy)-2-oxoethyl 4-(6-chloro-3-pyridazinyl)-1-piperazinecarboxylate, obtained in step 10.1., 1.99 g (10.49 mmol) of 3-(trifluoromethyl)phenyl-boronic acid, 2.97 g (13.99 mmol) of hydrated potassium phosphate and 0.40 g (0.35 mmol) of tetrakis(triphenyl-phosphine)palladium, and after chromatography on silica gel, eluting with a 35/65 and then 45/55 mixture of ethyl acetate and cyclohexane, 0.67 g of pure product is obtained in the form of a solid.

reactant | 2-(ethyloxy)-2-oxoethyl 4-(6-chloro-3-pyridazinyl)-1-piperazinecarboxylate | 3.50 mmol, 1.15 g | ClC1=CC=C(N=N1)N1CCN(CC1)C(=O)OCC(=O)OCC | C13H17ClN4O4
reactant | 3-(trifluoromethyl)phenyl-boronic acid | 10.49 mmol, 1.99 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-(ethyloxy)-2-oxoethyl 4-{6-[3-(trifluoromethyl)-phenyl]-3-pyridazinyl}-1-piperazinecarboxylate | 0.67 g | FC(C=1C=C(C=CC1)C1=CC=C(N=N1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C20H21F3N4O4
